US06482829B2
The intermediate 8-benzyl-3-hydroxy-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one (8.0 g, 23.8 mmol) was dissolved in glacial acetic acid (50 mL) and refluxed for 1.5 h. The reaction mixture was poured into ice water (500 mL) and adjusted to pH 8-9 by. addition of solid sodium hydroxide. The mixture was extracted three times with ethyl acetate (300 mL each). Organic phases were pooled, dried with magnesium sulfate and evaporated. The crude product was recrystallized from methylene chloride to give 8-benzyl-4-phenyl-2,8-diaza-spiro[4.5]dec-3-en-1-one as white crystalls (2.64 g, 35%).

reactant | 8-benzyl-3-hydroxy-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 23.8 mmol, 8.0 g | C(C1=CC=CC=C1)N1CCC2(C(C(NC2=O)O)C2=CC=CC=C2)CC1 | C21H24N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 8-benzyl-4-phenyl-2,8-diaza-spiro[4.5]dec-3-en-1-one | C(C1=CC=CC=C1)N1CCC2(C(=CNC2=O)C2=CC=CC=C2)CC1 | C21H22N2O
